US05712303
D. 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(3-trifluoromethylbenzenesulfonyl)-3-methylthiopyrazole
A suspension of 0.50 g (1.42 mmol) of 3,3-bis-methylthio-2-(3-trifluoromethylphenylsulfonyl)acrylonitrile and 0.35 g (1.42 mmol) of 2,6-dichloro-4-trifluoromethylphenylhydrazine in 10 mL of ethanol was heated at reflux for 2.5 hours, solution occurring as the reaction mixture was warmed. The mixture was stirred overnight at room temperature and was then poured into cold water. The product was extracted into ethyl acetate and the extracts were dried with magnesium sulfate and evaporated. The residues were crystallized from ether, and the product was filtered off and air dried to give 314 mg (40%) of the desired product, m.p. 201°-203° C. Anal. Calcd. for C18H11O2N3S2Cl2F6 : C, 39.28; H, 2.02; N, 7.64. Found: C, 39.35; H, 2.19; N, 7.48.

reactant | 3,3-bis-methylthio-2-(3-trifluoromethylphenylsulfonyl)acrylonitrile | 1.42 mmol, 0.50 g | CSC(=C(C#N)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)SC | C12H10F3NO2S3
reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 1.42 mmol, 0.35 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(3-trifluoromethylbenzenesulfonyl)-3-methylthiopyrazole | 314 mg, 40% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)SC)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C18H11Cl2F6N3O2S2
